US06376548B1
2-Methylpropanoic acid (carboxymethylphosphonomethyl carbamoyloxy)-methyl ester-isopropylamine salt (Compound 2-2 of Table 2)
To a stirred ice cold solution of 2-methylpropanoic acid (carboxymethylphosphonomethylcarbamoyloxy)-methyl ester (14.1 g, 43.8 mmol) in 80 mL of acetone was added isopropylamine (3.71 mL, 43.8 mmol). After 15 min of stirring the solvent was removed was removed under vacuum. The solid was washed with diethyl ether and subsequently dried under vacuum to afford 14.8 g of a tannish solid. 1H-NMR (300 MHz, D2O) δ (ppm): 1.01 (dd, 6H), 1.16 (d, 6H), 2.51 (m, 1H), 3.35 (m, 1H), 3.47 (d, 2H), 4.09 (d, 2H), 5.63 (d, 2H).

reactant | 2-methylpropanoic acid (carboxymethylphosphonomethylcarbamoyloxy)-methyl ester | 43.8 mmol, 14.1 g | C(=O)(O)COP(=O)(O)CNC(=O)OCOC(C(C)C)=O | C9H16NO9P
reactant | isopropylamine | 43.8 mmol, 3.71 mL | C(C)(C)N | C3H9N
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 2-Methylpropanoic acid (carboxymethylphosphonomethyl carbamoyloxy)-methyl ester-isopropylamine salt | 14.8 g | C(C)(C)N.C(=O)(O)COP(=O)(O)CNC(=O)OCOC(C(C)C)=O | InChI=1S/C9H16NO9P.C3H9N/c1-6(2)8(13)17-5-18-9(14)10-4-20(15,16)19-3-7(11)12;1-3(2)4/h6H,3-5H2,1-2H3,(H,10,14)(H,11,12)(H,15,16);3H,4H2,1-2H3
